US05567814
Combine chloroacetyl chloride (2.00 mL, 25.0 mmol) and N-methylmorpholine (2.76 mL, 25.0 mmol) in dichloromethane (100 mL). Cool in an ice-bath. Add morpholine (2.19 mL, 25.0 mmol) and stir in the ice-bath for 1 hour. Warm to ambient temperature and stir for 1 hour. Extract with cold aqueous 5% sulfuric acid solution, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to obtain chloroacetic acid morpholine carboxamide.

reactant | chloroacetyl chloride | 25.0 mmol, 2.00 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | N-methylmorpholine | 25.0 mmol, 2.76 mL | CN1CCOCC1 | C5H11NO
reactant | morpholine | 25.0 mmol, 2.19 mL | N1CCOCC1 | C4H9NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | chloroacetic acid morpholine carboxamide | N1(CCOCC1)C(=O)N.ClCC(=O)O | InChI=1S/C5H10N2O2.C2H3ClO2/c6-5(8)7-1-3-9-4-2-7;3-1-2(4)5/h1-4H2,(H2,6,8);1H2,(H,4,5)
